US05064832
(b) 4-(3-cyanophenyl)-6-chloro-2-methylthiopyrimidine
A suspension of 4-(3-cyanophenyl)-6-hydroxy-2-methylthiopyrimidine in phosphorus oxychloride is stirred for 5 hours at 110°. The reaction mixture is concentrated by evaporation, ice-water is added and the whole is adjusted to pH 5-6 by the addition of 10N sodium hydroxide solution. The undissolved material is filtered off with suction, washed with water and dried in vacuo to give the title compound. [Analogously to J. pharm. Soc. Japan 70, 137 (1950)].

reactant | 4-(3-cyanophenyl)-6-hydroxy-2-methylthiopyrimidine | C(#N)C=1C=C(C=CC1)C1=NC(=NC(=C1)O)SC | C12H9N3OS
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-(3-cyanophenyl)-6-chloro-2-methylthiopyrimidine | C(#N)C=1C=C(C=CC1)C1=NC(=NC(=C1)Cl)SC | C12H8ClN3S
